US08247557B2
(2-chloro-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester a (4.20 g, 11.8 mmol), phenyl boronic acid (1.90 g, 15.6 mmol), potassium carbonate (2.42 g, 17.5 mmol) and tetrakistriphenylphosphine palladium(0) (0.68 g, 0.59 mmol) were weighed into a 20 ml microwave vial. The vial was evacuated, then purged with nitrogen gas 3 times. 16.7 ml dry DMF was added, then 3.3 ml of water, which had been degassed by bubbling nitrogen through it overnight. The vial was then capped and microwaved at 130° C. for 40 minutes. The resulting solution was poured into 250 ml water and extracted with EtOAc (3×50 ml). The combined organics were dried with MgSO4, filtered and concentrated. The resulting oil was adsorbed onto silica gel and purified by flash chromatography (150 g SiO2, 0% to 40% EtOAc in hexanes) to give 2-chloro-3-amino-4-phenyl pyridine b (0.84 g, 4.1 mmol, 35%) and the Boc-protected 2-chloro-3-amino-4-phenyl pyridine c (1.74 g, 5.7 mmol, 48%) as yellow and white solids, respectively.

reactant | (2-chloro-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=CC1I)Cl)=O | C10H12ClIN2O2
reactant | phenyl boronic acid | 15.6 mmol, 1.90 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 17.5 mmol, 2.42 g | C([O-])([O-])=O.[K+].[K+]
product | 2-chloro-3-amino-4-phenyl pyridine | ClC1=NC=CC(=C1N)C1=CC=CC=C1 | C11H9ClN2
